US03962053
The lithium salt of 2-nitropropane (0.52 mol.) was dissolved in 700 ml. of hexamethylphosphoramide and, while under nitrogen, 62.1 g. (0.3 mol.) of 3'-methyl-α-nitroisobutyrophenone was added. The reaction mixture was stirred 18 hours under fluorescent lighting. The mixture was then diluted with 1400 ml. of water and the aqueous mixture was extracted three times with 800 ml. portions of ether. The combined ether extracts were washed three times with water, dried over magnesium sulfate and the ether removed. The residue was crystallized from hexane to give a 48 percent yield of 3-nitro-2,2,3,3'-tetramethylbutyrophenone: m.p. 50°-51° C.

reactant | lithium | [Li] | Li
reactant | 2-nitropropane | 0.52 mol | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 3'-methyl-α-nitroisobutyrophenone | 0.3 mol | CC=1C=C(C=CC1)C(C(C)(C)[N+](=O)[O-])=O | C11H13NO3
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 3-nitro-2,2,3,3'-tetramethylbutyrophenone | 48 percent yield | [N+](=O)([O-])C(C(C(=O)C1=CC(=CC=C1)C)(C)C)(C)C | C14H19NO3
